US07342115B2
A mixture of 4,6-dichloro-2-methyl-nicotinic acid ethyl ester (1.2 g, 5.1 mmol), 2,6-diethyl-phenyl boronic acid (2.18 g, 12.2 mmol), sodium carbonate (2 M aqueous solution, 12.2 mL, 24.4 mmol), and Pd(PPh3)4 (284 mg, 0.26 mmol) is refluxed in toluene for 48 hours and then cooled to room temperature. The organic layer is separated and the aqueous layer is extracted with ethyl acetate (2×50 mL). The organic layers are combined, dried, and solvent removed. The crude product is purified by flash column (hexanes/ethyl acetate 8:1) to give 4-chloro-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic acid ethyl ester. 1H NMR: (CDCl3) 7.26 (t, 1H), 7.18 (s, 1H), 7.13 (d, 2H), 4.47 (q, 2H), 2.62 (s, 3H), 2.28 (q, 4H), 1.44 (t, 3H), 1.04 (t, 6H).

reactant | 4,6-dichloro-2-methyl-nicotinic acid ethyl ester | 5.1 mmol, 1.2 g | C(C)OC(C1=C(N=C(C=C1Cl)Cl)C)=O | C9H9Cl2NO2
reactant | 2,6-diethyl-phenyl boronic acid | 12.2 mmol, 2.18 g | C(C)C1=C(C(=CC=C1)CC)B(O)O | C10H15BO2
reactant | sodium carbonate | 24.4 mmol, 2 M, 12.2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.26 mmol, 284 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-chloro-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C=C1Cl)C1=C(C=CC=C1CC)CC)C)=O | C19H22ClNO2
